US07176242B2
2-(Dipropylamino)isonicotinic acid (0.206 g) was dissolved in dichloromethane (10 mL). 1,1′-Carbonyldiimidazole was added (0.142 g) and the mixture was stirred for 2 h at room temperature, at which time (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}butan-2-ol (0.284 g) in dichloromethane was added. The mixture was allowed to stir overnight and then was partitioned between dichloromethane, water, and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The concentrate was chromatographed on silica gel using methanol/dichloromethane (4/96) to give N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-2-(dipropylamino)isonicotinamide (0.268 g). MS (ESI+) for C33H38F2N4O2+H1 m/z 561.30 (M+H)+.

reactant | 2-(Dipropylamino)isonicotinic acid | 0.206 g | C(CC)N(C=1C=C(C(=O)O)C=CN1)CCC | C12H18N2O2
reactant | 1,1′-Carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-{[1-(3-ethynylphenyl)cyclopropyl]amino}butan-2-ol | 0.284 g | N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C#C)O)CC1=CC(=CC(=C1)F)F | C21H22F2N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethynylphenyl)cyclopropyl]amino}-2-hydroxypropyl)-2-(dipropylamino)isonicotinamide | 0.268 g | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C#C)O)NC(C2=CC(=NC=C2)N(CCC)CCC)=O)C=C(C1)F | C33H38F2N4O2
